US07192968B2
(±)-cis-N1-Benzyl-N2-tert-butoxycarbonyl-1,2-cyclohexanediamine
(±)-cis-N-tert-Butoxycarbonyl-1,2-cyclohexanediamine (3.78 g) was dissolved in acetonitrile (80 ml), and to the solution triethylamine (2.44 ml) and benzyl bromide (2.10 ml) were added, and the mixture was stirred at room temperature for 13 hours. The solvent was distilled off under reduced pressure, dichloromethane and water was added to the residue to separate an organic layer. The organic layer was dried over anhydrous sodium sulfate and then concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel (hexane:ethyl acetate=1:1) to obtain the title compound (3.08 g) as a pale orange oil.

reactant | (±)-cis-N-tert-Butoxycarbonyl-1,2-cyclohexanediamine | 3.78 g | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CCCC1)N | C11H22N2O2
reactant | triethylamine | 2.44 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl bromide | 2.10 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 80 ml | C(C)#N | C2H3N
product | (±)-cis-N1-Benzyl-N2-tert-butoxycarbonyl-1,2-cyclohexanediamine | 3.08 g | C(C1=CC=CC=C1)N[C@H]1[C@H](CCCC1)NC(=O)OC(C)(C)C | C18H28N2O2
